US06046201
N-(12-Mesyloxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide
To a solution of 3.77 g of 12-aminododecyl methanesulfonate hydrochloride in 100 ml of methylene chloride were added successively under ice-cooling 3.60 g of sodium 6-(4-ethyl-1-piperazinyl)pyridine-3-carboxylate, 2.89 g of 1-hydroxybenzotriazole (HOBt), 1.99 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (WSCI) and then the mixture was stirred overnight. The reaction solution was diluted with chloroform and washed successively with water, a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and then distilled under reduced pressure. The residue thus obtained was chromatographed over a silica gel column to afford 4.96 g of the title compound.

reactant | 12-aminododecyl methanesulfonate hydrochloride | 3.77 g | Cl.CS(=O)(=O)OCCCCCCCCCCCCN
reactant | sodium 6-(4-ethyl-1-piperazinyl)pyridine-3-carboxylate | 3.60 g | C(C)N1CCN(CC1)C1=CC=C(C=N1)C(=O)[O-].[Na+]
reactant | 1-hydroxybenzotriazole | 2.89 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.99 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(12-Mesyloxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 4.96 g | S(=O)(=O)(C)OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C25H44N4O4S
